US04766133
18.0 g (69.2 mmol) of 5,7-dihydro-2 -mercapto-5,5,7,7-tetramethylindeno[5,6-d]imidazol-6(1H)-one are suspended in 400 ml of alcohol and treated with 15.6 g (70.2 mmol) of 2-(chloromethyl)-4-methoxy-3,5-dimethylpyridine hydrochloride while cooling with ice. Thereafter, a solution of 5.6 g of sodium hydroxide in 150 ml of water is added dropwise thereto, the mixture is left to boil at reflux overnight and subseguently evaporated to dryness in vacuo. The residue is dissolved in 1000 ml of methylene chloride; the solution is washed firstly with 500 ml of 1.5N sodium hydroxide solution and then with 3×500 ml of water, dried over sodium sulphate and evaporated in vacuo. The crude product is purified on 300 g of silica gel with ethyl acetate/methylene chloride (1:1) as the elution agent. Crystallization from methylene chloride/petroleum ether gives 5,7-dihydro-2-[[(4-methoxy-3,5 -dimethyl-2ether -pyridyl)methyl]thio]-5,5,7,7 -tetramethylindeno[5,6-d)-imidazol-6(1H)-one of melting point 166°-168°.

reactant | 5,7-dihydro-2 -mercapto-5,5,7,7-tetramethylindeno[5,6-d]imidazol-6(1H)-one | 69.2 mmol, 18.0 g | SC1=NC2=C(N1)C=C1C(C(C(C1=C2)(C)C)=O)(C)C | C14H16N2OS
reactant | 2-(chloromethyl)-4-methoxy-3,5-dimethylpyridine hydrochloride | 70.2 mmol, 15.6 g | Cl.ClCC1=NC=C(C(=C1C)OC)C
reactant | sodium hydroxide | 5.6 g | [OH-].[Na+]
solvent | water | 150 ml | O | H2O
product | 5,5,7,7 -tetramethylindeno[5,6-d)-imidazol-6(1H)-one | CC1(C(C(C2=CC=3NC=NC3C=C12)(C)C)=O)C | C14H16N2O
